US07183278B1
3-Hydroxy-4′-phenoxypicolinanilide
3-Hydroxypicolinic acid (1.39 g, 10.0 mmol) and 1.95 g (12.0 mmol) of carbonyldiimidazole were mixed into anhydrous N,N-dimethylformamide (hereinafter referred to as “DMF”) to prepare a suspension (30 ml). An anhydrous DMF solution (25 ml) of 1.85 g (10.0 mmol) of 4-phenoxyaniline was added dropwise to this suspension, and the reaction was allowed to proceed at room temperature overnight. Water (50 ml) was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the dried organic layer was concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate-n-hexane) to give 1.24 g (yield 41%) of the title compound.

reactant | 3-Hydroxypicolinic acid | 10.0 mmol, 1.39 g | OC=1C(=NC=CC1)C(=O)O | C6H5NO3
reactant | carbonyldiimidazole | 12.0 mmol, 1.95 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | DMF | 25 ml | CN(C=O)C | C3H7NO
reactant | 4-phenoxyaniline | 10.0 mmol, 1.85 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
solvent | Water | 50 ml | O | H2O
product | 3-Hydroxy-4′-phenoxypicolinanilide | 1.24 g, yield 41% | OC=1C(=NC=CC1)C(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C18H14N2O3
